US04424229
The 3,5-difluorobenzaledehyde used as a starting compound can be prepared as follows: 3,5-difluorophenylmagnesiumbromide can be prepared as described by A. Roe and W. F. Little: J.Org.Chem. 20 (1955) 1577. A solution of 3,5-difluorophenylmagnesiumbromide in diethylether is added dropwise to a solution of N-methylformanilide in tetrahydrofuran. By working up this reaction mixture, 3,5-difluorobenzaldehyde is obtained. b55 =86°-88° C.

reactant | 3,5-difluorophenylmagnesiumbromide | FC=1C=C(C=C(C1)F)[Mg]Br
reactant | N-methylformanilide | CN(C1=CC=CC=C1)C=O | C8H9NO
solvent | diethylether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
